US04889871
(a) methyl 1,2,3,4-tetrahydro-7-methoxy-1-oxo-2-naphthalene carboxylate
A 50% slurry of NaH (30 g, 0.62 moles) in hexane was filtered through a fritted glass funnel to remove the mineral oil. The NaH was then added to a 2L flask, covered with 300 ml of tetrahydrofuran (THF), and placed under a N2 atmosphere. Upon the addition of 0.62 moles of dimethyl carbonate at one time with stirring, the reaction mixture was heated to 40°-50° C., whereupon 50 g (0.28 moles) of commerically available 7-methoxy-1-tetralone in 150 ml of THF was added at a rate to minimize foaming (1 hr.). Afte refluxing the reaction mixture for 2 hrs., the solution (red) was cooled to room temperature and slowly acidified by the addition of 45 ml of acetic acid. The resulting paste was dissolved upon addition of 50 ml of water. Ether was added and the layers were separated. The organic phase was washed with H2O, 3% NaHCO3 solution, and dried (Na2SO4 ). After filtration, the solvent was evaporated on a rotary evaporator. The residue was distilled at 168°-170° C. at 0.2 mm Hg.

reactant | NaH | 0.62 moles, 30 g | [H-].[Na+]
reactant | dimethyl carbonate | 0.62 moles | C(OC)(OC)=O | C3H6O3
reactant | 7-methoxy-1-tetralone | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | Ether | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | methyl 1,2,3,4-tetrahydro-7-methoxy-1-oxo-2-naphthalene carboxylate | COC1=CC=C2CCC(C(C2=C1)=O)C(=O)OC | C13H14O4
